US09303033B2
Synthesis of tert-butyl 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate
To the reaction flask, tert-butyl 3-(5-(3-chlorophenylamino)-3-formylpyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate (122 mg, 0.3 mmol) was added to ethanol (1.3 mL) along with hydantoin (26 mg, 0.3 mmol) and piperidine (26 μL, 0.3 mmol). The reaction was heated at 80° C. for 2 hours in the microwave then cooled to room temperature and diluted with water. The solid was collected by filtration, washed with water, 50% ethanol/water, and then 100% ethanol. The material was dried under vacuum overnight. The product, tert-butyl 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate, was recovered as a solid in 69% yield. LCMS (M+1=546)

reactant | tert-butyl 3-(5-(3-chlorophenylamino)-3-formylpyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate | 0.3 mmol, 122 mg | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC=1C=C(C(=O)OC(C)(C)C)C=CC1)N=CC2C=O | C24H22ClN5O3
reactant | ethanol | 1.3 mL | C(C)O | C2H6O
reactant | hydantoin | 0.3 mmol, 26 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 0.3 mmol, 26 μL | N1CCCCC1 | C5H11N
solvent | water | O | H2O
product | tert-butyl 3-(5-(3-chlorophenylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)benzoate | 69% yield | ClC=1C=C(C=CC1)NC1=NC=2N(C(=C1)NC=1C=C(C(=O)OC(C)(C)C)C=CC1)N=CC2C=C2NC(NC2=O)=O | C27H24ClN7O4
